US08084484B2
g) Ethyl 2-(2,3-dihydro-2-oxobenzo[d]oxazol-6-yl)propanoate
A solution of Ethyl 2-(4-amino-3-hydroxyphenyl)propanoate (205 mg, 0.978 mmol) in DMF (5 mL) was added urea (305 mg, 5.19 mmol) and refluxed for 5 hrs. The reaction mixture was cooled to room temperature and added water (30 mL). The mixture was acidified with conc. HCl (1 ml) and extracted with EtOAc. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel using EtOAc:hexanes (1:2) as eluant.

reactant | Ethyl 2-(4-amino-3-hydroxyphenyl)propanoate | 0.978 mmol, 205 mg | NC1=C(C=C(C=C1)C(C(=O)OCC)C)O | C11H15NO3
reactant | urea | 5.19 mmol, 305 mg | NC(=O)N | CH4N2O
reactant | water | 30 mL | O | H2O
reactant | HCl | 1 ml | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-(2,3-dihydro-2-oxobenzo[d]oxazol-6-yl)propanoate | O=C1OC2=C(N1)C=CC(=C2)C(C(=O)OCC)C | C12H13NO4
